US08304557B2
(vi) N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide
To a solution of 3-(1-cyano-1-methylethyl)-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}benzamide (3.2 g, 6.08 mmol) in N,N-dimethylformamide (20 mL) was added N,N-diisopropylethylamine (1.11 mL, 6.38 mmol), and the mixture was stirred at room temperature for 15 min. 2-Iodoacetamide (1.18 g, 6.38 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 48 hr. The reaction mixture was concentrated under reduced pressure, 5% aqueous sodium hydrogen carbonate solution (150 mL) was added to the residue, and the mixture was extracted with ethyl acetate (300 mL). The organic layer was washed with saturated brine (150 mL), and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/50→0/100), and triturated with ethyl acetate, diisopropyl ether and hexane to give the title compound (2.23 g, 63%) as a colorless solid.

reactant | 3-(1-cyano-1-methylethyl)-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}benzamide | 6.08 mmol, 3.2 g | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=NC(=CC2)NS(=O)(=O)C2=CC=C(C=C2)C)C=CC1 | C29H26N4O4S
reactant | N,N-diisopropylethylamine | 6.38 mmol, 1.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Iodoacetamide | 6.38 mmol, 1.18 g | ICC(=O)N | C2H4INO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 2.23 g, 63% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(C)(C)C#N)=O)=O | C31H29N5O5S
